US08735425B2
(25a) benzoxazol-2-yl-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amine hydrochloride
A 1-butanol (10 mL) solution of 6-amino-2N-Boc-1,2,3,4-tetrahydroisoquinoline (1.00 g) and 2-chlorobenzoxazole (0.50 mL) was heated to reflux for 11 hours, then cooled to room temperature, and then diluted with ethyl acetate. The precipitate was collected by filtration, then washed with ethyl acetate, and dried under reduced pressure to obtain the title compound (791 mg, 65%) as a beige solid.

reactant | 1-butanol | 10 mL | C(CCC)O | C4H10O
reactant | 6-amino-2N-Boc-1,2,3,4-tetrahydroisoquinoline | 1.00 g | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | 2-chlorobenzoxazole | 0.50 mL | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzoxazol-2-yl-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amine hydrochloride | 791 mg, 65% | Cl.O1C(=NC2=C1C=CC=C2)NC=2C=C1CCNCC1=CC2 | InChI=1S/C16H15N3O.ClH/c1-2-4-15-14(3-1)19-16(20-15)18-13-6-5-12-10-17-8-7-11(12)9-13;/h1-6,9,17H,7-8,10H2,(H,18,19);1H
